US08003669B2
Acenaphthen-1-one (34 g, 200 mmol) was dissolved in methanol (300 ml). Sodium borohydride (8 g, 200 mmol) was added to this solution under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated to give 1-acenaphthenol (33 g) as yellow crystals. (2) To a solution of 1-acenaphthenol (33 g, 190 mmol) and diphenylphosphorylazide (63 g, 230 mmol) in toluene (300 ml) was cooled to 0° C., DBU (diazabicycloundecene) (35 g, 230 mmol) was added and the mixture was stirred at room temperature for 6 hr. The reaction mixture was poured into water and extracted with toluene. The combined organic phase was washed with water, dried over magnesium sulfate, and concentrated. A crude product was dissolved in a mixed solvent (330 ml) of THF/water (10:1), triphenylphosphine (53 g) was added thereto, and the mixture was heated under reflux for 6 hr. After cooling to room temperature, the solvent was evaporated and 1N-hydrochloric acid (200 ml) was added to the residue. Unnecessary materials were extracted with ethyl acetate. The aqueous phase was alkalified with potassium carbonate and extracted with chloroform. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated to give acenaphthen-1-yl-amine (20 g) as a red oil. (3) Acenaphthen-1-yl-amine (20 g, 118 mmol) was dissolved in ethanol (200 ml). Potassium carbonate (1.7 g, 12 mmol) and 1-ethyl-1-methyl-4-oxopiperidinium iodide (38 g) dissolved in water (100 ml) was added and the mixture was heated under reflux for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give 1-(acenaphthen-1-yl)-piperidin-4-one (23 g) as yellow crystals. (4) To a solution of 1-(acenaphthen-1-yl)-piperidin-4-one (12 g, 48 mmol) and 1,2-phenylenediamine (10.8 g, 100 mmol) in THF (100 ml) was cooled to 0° C. were added sodium triacetoxy borohydride (34 g) and acetic acid (12 ml) and the mixture was stirred at room temperature for 17 hr. The reaction mixture was poured into water and potassium carbonate was added for neutralization. The mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over sodium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give N-[1-(acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (8.5 g) as yellow crystals. (5) N-[1-(Acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine (1 g, 3 mmol) was dissolved in THF (30 ml), and triethylamine (1.4 ml, 10 mmol) and 1,1′-thiocarbonyldiimidazole (0.63 g, 3.5 mmol) were added. The mixture was stirred at room temperature for 3 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated aqueous ammonium chloride solution, dried over magnesium sulfate, and concentrated. The obtained residue was purified by silica gel column chromatography (chloroform/methanol) to give the title compound (1.17 g) as a gray-white solid.

reactant | 1-(acenaphthen-1-yl)-piperidin-4-one | 48 mmol, 12 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)=O | C17H17NO
reactant | 1,2-phenylenediamine | 100 mmol, 10.8 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sodium triacetoxy borohydride | 34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | N-[1-(acenaphthen-1-yl)piperidin-4-yl]-benzene-1,2-diamine | 8.5 g | C1(CC2=CC=CC3=CC=CC1=C23)N2CCC(CC2)NC=2C(=CC=CC2)N | C23H25N3
